US08912353B2
In a 500 ml Schlenk flask, 62.5 g (0.5 mol) 2-methylindoline and 131 g (1.0 mol) di-isopropylaminosilane were stirred at ambient temperature under a nitrogen atmosphere for 24 hours. The relatively lower boiling point by-product di-isopropylamine was removed with vacuum at a pressure of 20 mmHg and room temperature (25° C.). The reaction mixture was stirred for another 24 hours. The end-product N-silyl-2-methylindoline was obtained by vacuum distillation. The compound was characterized by mass spectroscopy (MS). The end-product was characterized by mass spectroscopy (MS) which is provided in FIG. 4 and shows, among other things, peaks at 163, 162, 148, 132, 117, 105, 91, and 77. The molecular weight of the N-silyl-2-methylindoline was 163.29.

reactant | 2-methylindoline | 0.5 mol, 62.5 g | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | di-isopropylaminosilane | 1.0 mol, 131 g | C(C)(C)N(C(C)C)[SiH3] | C6H17NSi
product | N-silyl-2-methylindoline | [SiH3]N1C(CC2=CC=CC=C12)C | C9H13NSi
